US07732099B2
To a solution of 37.0 g (0.45 mol) of 1-methylimidazol in 200 ml of 1,1,1-trichloroethane was added dropwise a solution of 68.7 g (0.45 mol) of p-chloromethylstyrene in 100 ml of 1,1,1-trichloroethane at room temperature while stirring. After the addition, the mixture was stirred at 65° C. for 10 hours. The resulting product was separated from the reaction mixture, washed with 100 ml of 1,1,1--trichloroethane twice, and dried at 65° C. at 0.1 mmHg for two hours to give 1-methyl-3-(4-vinylbenzyl)imidazolium chloride (MVBI.Cl) as a pale yellow solid. Yield was 52.8 g (50%).

reactant | 1-methylimidazol | 0.45 mol, 37.0 g | CN1C=NC=C1 | C4H6N2
reactant | p-chloromethylstyrene | 0.45 mol, 68.7 g | ClCC1=CC=C(C=C)C=C1 | C9H9Cl
solvent | 1,1,1-trichloroethane | 200 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | 1,1,1-trichloroethane | 100 ml | ClC(C)(Cl)Cl | C2H3Cl3
product | 1-methyl-3-(4-vinylbenzyl)imidazolium chloride | [Cl-].C[N+]1=CN(C=C1)CC1=CC=C(C=C1)C=C | InChI=1S/C13H15N2.ClH/c1-3-12-4-6-13(7-5-12)10-15-9-8-14(2)11-15;/h3-9,11H,1,10H2,2H3;1H/q+1;/p-1
